US06953793B2
B. (5-Chloro-2-nitro-phenyl)-acetic acid ethyl ester.
2-(5-Chloro-2-nitro-phenyl)-malonic acid diethyl ester (10.3 g, 32.6 mmol) in DMSO (200 mL) containing LiCl (2.9 g, 68.4 mmol) and water (0.6 mL, 33.3 mmol) was set stirring and heated to 100° C. After 5 h the mixture was cooled to room temperature and added to water (750 mL). The product was extracted with two portions of EtOAc. The organics were combined, washed with water, dried (MgSO4) and evaporated to give 5.9 g (75%) of a clear yellow oil. TLC (silica, 25% EtOAc/hexanes): Rf=0.50. 1H NMR (400 MHz, CDCl3): 8.21 (d, J=8.8 Hz, 1H), 7.56 (dd, J=8.8, 2.3 Hz, 2H), 7.47 (d, J=2.3 Hz, 1H), 4.30 (q, J=7.2 Hz, 2H), 4.12 (s, 2H), 1.38 (t, J=7.1 Hz, 3H).

reactant | 2-(5-Chloro-2-nitro-phenyl)-malonic acid diethyl ester | 32.6 mmol, 10.3 g | C(C)OC(C(C(=O)OCC)C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C13H14ClNO6
reactant | LiCl | 68.4 mmol, 2.9 g | [Li+].[Cl-]
reactant | water | 33.3 mmol, 0.6 mL | O | H2O
reactant | water | 750 mL | O | H2O
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | (5-Chloro-2-nitro-phenyl)-acetic acid ethyl ester | 5.9 g, 75% | C(C)OC(CC1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C10H10ClNO4
